### PR TITLE
sigma-rings

### PR DESCRIPTION
**Pull request by affeldt-aist**
This PR introduces the mathematical structure of sigma-rings and
generalizes accordingly several definitions and lemmas.

Not all opportunities for generalization have been exploited yet.

- [x] better names for
  + `AlgebraOfSets_isMeasurable` (became `hasMeasurableCountableUnion`)
  + `bigcap_measurable'` (became `bigcap_measurableType`)

Co-authored-by: @TheoWinterhalter
Co-authored-by: @JeremyDubut
Co-authored-by: @AkihisaYamada

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: CHANGELOG_UNRELEASED.md [hunk 1]
```diff
@@ -110,6 +125,41 @@
 	(from `measurableType` to `semiRingOfSetsType`)
   + lemmas ` measurable_prod_measurableType`, `measurable_prod_g_measurableTypeR` (from `measurableType` to `algebraOfSetsType`)
 
+- in `measure.v`:
+  + from `measurableType` to `sigmaRingType`
+    * lemmas `bigcup_measurable`, `bigcapT_measurable`
+	* definition `measurable_fun`
+	* lemmas `measurable_id`, `measurable_comp`, `eq_measurable_fun`, `measurable_cst`, `measurable_fun_bigcup`, `measurable_funU`, `measurable_funS`, `measurable_fun_if`
```
Comment (TheoWinterhalter) [inline CHANGELOG_UNRELEASED.md:132]: Maybe a newline is needed here?

File: theories/measure.v [hunk 2]
```diff
@@ -196,7 +198,8 @@ From HB Require Import structures.
 (* ## Other measure-theoretic definitions                                     *)
 (*                                                                            *)
 (* ```                                                                        *)
-(*      measurable_fun D f == the function f with domain D is measurable      *)
+(*      measurable_fun D f == the measurable function f with domain D is      *)
+(*                            measurable                                      *)
```
Comment (TheoWinterhalter) [inline theories/measure.v:202]: The measurable function is measurable sounds odd.

File: theories/measure.v [hunk 3]
```diff
@@ -967,7 +1027,7 @@ Let discrete_measurableC X :
 Proof. by []. Qed.
 
 Let discrete_measurableU (F : (set unit)^nat) :
-  (forall i, discrete_measurable_unit (F i)) ->
+    (forall i, discrete_measurable_unit (F i)) ->
   discrete_measurable_unit (\bigcup_i F i).
```
Comment (TheoWinterhalter) [inline theories/measure.v:1031]: A reason for this indentation?

**Review by TheoWinterhalter — COMMENTED** [review]
Only a few stylistic remarks/questions. Otherwise looks good to me. :)

File: theories/measure.v (hunk 3 above)
Comment (affeldt-aist) [reply theories/measure.v:1031]: We often add indentation to hypotheses when we fell it improves reading but this is not a very defined habit.
In this case, anyway, it looks disgracious.

File: theories/measure.v [hunk 4]
```diff
@@ -380,6 +381,7 @@ Definition sigma_algebra :=
 
 Definition dynkin := [/\ G setT, setC_closed & trivIset_closed].
 
+(**md see, e.g., the definition of "class monotone" on the French wikipedia *)
```
Comment (TheoWinterhalter) [inline theories/measure.v]: Should be "classe monotone".

File: CHANGELOG_UNRELEASED.md [hunk 5]
```diff
@@ -33,6 +33,26 @@
...
+  + hint `nat_nonempty`
+
+- in `measure.v`:
+  + structure `SigmaRing`, notation `sigmaRingType`
+  + factory `isSigmaRing`
+  + lemma `bigcap_measurable` for `sigmaRingType`
+  + lemma `setDI_semi_setD_closed`
+  + lemmas `powerset_lambda_system`, `lambda_system_smallest`, `sigmaRingType_lambda_system`
+  + definitions `niseq_closed`, `sigma_ring` (notation `<<sr _ >>`), `monotone` (notation `<<M _ >>`)
+  + lemmas `smallest_sigma_ring`, `sigma_ring_monotone`, `g_sigma_ring_monotone`, `sub_sigma_ring`, `setring_monotone_sigma_ring`, `monotone_g_monotone`, `g_monotone_setring`, `smallest_monotone`, `setring_g_sigma_ring`
```
Comment (TheoWinterhalter) [inline CHANGELOG_UNRELEASED.md:47]: Newline here too?

File: theories/lebesgue_integral.v [hunk 6]
```diff
@@ -119,9 +119,10 @@ Reserved Notation "[ 'mfun' 'of' f ]"
   (at level 0, format "[ 'mfun'  'of'  f ]").
 Notation "{ 'mfun' aT >-> T }" := (@MeasurableFun.type _ aT T) : form_scope.
 Notation "[ 'mfun' 'of' f ]" := [the {mfun _ >-> _} of f] : form_scope.
-#[global] Hint Resolve measurable_funP : core.
+#[global] Hint Extern 0 (measurable_fun [set: _] _) =>
```
Comment (TheoWinterhalter) [inline theories/lebesgue_integral.v:122]: The cast can/should be dropped no?

File: theories/measure.v [hunk 7]
```diff
@@ -364,25 +390,68 @@ Definition fin_trivIset_closed :=
...
+
+Lemma powerset_sigma_ring (T : Type) (A : set T) : sigma_ring (subset^~ A).
+Proof.
+split => //.
+  by move=> U V + VA; apply: subset_trans; exact: subDsetl.
+by move=> F FA; exact: bigcup_sub.
+Qed.
+
+Lemma powerset_lambda_system (T : Type) (D : set T) :
+  lambda_system D [set X | X `<=` D].
```
Comment (TheoWinterhalter) [inline theories/measure.v:422]: Is there a reason why the powerset is written in two different ways?

File: theories/measure.v [hunk 8]
```diff
@@ -530,80 +599,197 @@ Qed.
...
+
+(**md see Paul Halmos' Measure Theory, Ch.1, sec.6, thm.A(1), p.27 *)
+Lemma sigma_ring_monotone T (G : set (set T)) : sigma_ring G -> monotone G.
+Proof.
+move=> [G0 GDI GU]; split => [F ndF GF|F icF GF]; first exact: GU.
+rewrite -(@setD_bigcup _ _ F _ O)//; apply: (GDI); first exact: GF.
+by rewrite bigcup_mkcond; apply: GU => n; case: ifPn => // _; exact: GDI.
+Qed.
+
+Lemma g_sigma_ring_monotone T (G : set (set T)) : monotone <<sr G >>.
```
Comment (TheoWinterhalter) [inline theories/measure.v:627]: The generated sigma algebra is shortened to `g_salgebra` but the generated sigma ring is shortened to `g_sigma_ring`, I prefer the latter but I guess `g_sigma_algebra` is too long.

File: theories/measure.v [hunk 9]
```diff
@@ -530,80 +599,197 @@ Qed.
...
+Proof. by apply: sigma_ring_monotone => //; exact: smallest_sigma_ring. Qed.
+
+Lemma sub_sigma_ring T (G : set (set T)) : G `<=` <<sr G >>.
+Proof. exact: sub_smallest. Qed.
```
Comment (TheoWinterhalter) [inline theories/measure.v:631]: Should it be `sub_g_sigma_ring`? (I'm not entirely sure about mathcomp naming conventions.)

File: theories/measure.v [hunk 10]
```diff
@@ -530,80 +599,197 @@ Qed.
...
+Lemma setring_monotone_sigma_ring T (G : set (set T)) :
+  setring G -> monotone G -> sigma_ring G.
+Proof.
+move=> [G0 GU GD] [ndG niG]; split => // F GF.
+rewrite -eq_bigcup_bigsetU; apply: ndG.
+  by move=> *; exact/subsetPset/subset_bigsetU.
+by elim=> [|n ih]; rewrite big_ord_recr/= ?big_ord0 ?set0U//; exact: GU.
+Qed.
+
+Lemma monotone_g_monotone T (G : set (set T)) : monotone <<M G>>.
```
Comment (TheoWinterhalter) [inline theories/measure.v:643]: Following convention of the others it would be `smallest_monotone` but maybe that one is better since we're talking about generated X rather than smallest X.

File: theories/measure.v [hunk 11]
```diff
@@ -530,80 +599,197 @@ Qed.
...
+- by apply: (ndC) => // i; apply: (GC); exact: GF.
+- by apply: (niC) => // i; apply: (GC); exact: GF.
+Qed.
+
+Section smallest_monotone.
+Variables (T : Type) (G : set (set T)).
+Hypothesis ringG : setring G.
+
+(**md see Paul Halmos' Measure Theory, Ch.1, sec.6, thm.B, p.27 *)
+Lemma g_monotone_setring : setring <<M G>>.
```
Comment (TheoWinterhalter) [inline theories/measure.v:656]: This one's order is reversed compared to the above.

File: theories/measure.v [hunk 12]
```diff
@@ -530,80 +599,197 @@ Qed.
...
+  by move=> MF A GA; rewrite /K/=; split; have /KP[] := GM_KF _ GA _ MF.
+have MM_KF F : M F -> M `<=` K(F).
+  by move=> MF; apply: smallest_sub => //; exact: MG_KF.
+split.
+- by apply: sub_gen_smallest; case: ringG.
+- by move=> A B GA GB; have [] := MM_KF _ GB _ GA.
+- by move=> A B GA GB; have [] := MM_KF _ GB _ GA.
+Qed.
+
+Lemma smallest_monotone : <<M G >> = <<sr G >>.
```
Comment (TheoWinterhalter) [inline theories/measure.v:704]: And here, the name `smallest_monotone` talks about a different property.

File: theories/measure.v [hunk 13]
```diff
@@ -530,80 +599,197 @@ Qed.
...
-Variables (T : Type) (G : set (set T)) (setIG : setI_closed G).
-Variables (D : set T) (GD : G D).
-Variables (H : set (set T)) (monoH : monotone_class D H) (GH : G `<=` H).
+End smallest_monotone.
 
-Lemma smallest_monotone_classE : (forall X, <<s D, G >> X -> X `<=` D) ->
-  (forall E, monotone_class D E -> G `<=` E -> H `<=` E) ->
-  H = <<s D, G >>.
+Corollary setring_g_sigma_ring T (G R : set (set T)) : monotone G ->
+  setring R -> R `<=` G -> <<sr R>> `<=` G.
```
Comment (TheoWinterhalter) [inline theories/measure.v:716]: Maybe the name should contain `sub` or something?

File: theories/measure.v [hunk 14]
```diff
@@ -656,7 +842,7 @@ split => [[GT setCG trG]|[_ GT setDG ndG]]; split => //.
   by apply: (@trivIset_bigsetUI _ predT) => //; rewrite /predT /= trueE.
 Qed.
 
-Lemma dynkin_g_dynkin G : dynkin (<<d G >>).
+Lemma g_dynkin_dynkin G : dynkin <<d G >>.
```
Comment (TheoWinterhalter) [inline theories/measure.v:845]: Similar thing.

File: theories/sequences.v [hunk 15]
```diff
@@ -331,6 +331,14 @@ rewrite eqEsubset; split => [t [i _]|t [i _ Fit]].
 by exists i => //; rewrite big_ord_recr /=; right.
 Qed.
 
+Lemma eq_bigcup_bigsetU F :
```
Comment (TheoWinterhalter) [inline theories/sequences.v:334]: Why `eq` in the name?

**Review by TheoWinterhalter — COMMENTED** [review]
Some comments about naming, but I'm not an expert in mathcomp naming conventions.

File: theories/lebesgue_integral.v (hunk 6 above)
Comment (affeldt-aist) [reply theories/lebesgue_integral.v:122]: `[set: _]` is a notation for `@setT _` (the same as `setT` because of how implicit arguments are set) so maybe this is not one of these casts that cause warnings (which should indeed be removed by the way)

File: theories/measure.v (hunk 7 above)
Comment (affeldt-aist) [reply theories/measure.v:422]: Not really. Not sure which is best. `subset^~ A` might look a bit cryptic.

File: theories/measure.v (hunk 11 above)
Comment (affeldt-aist) [reply theories/measure.v:656]: The ordering in this one might be correct.
The convention in MathComp is to name lemmas with a unary predicate as follows:
`mainSymbol_unaryPredicate` (https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md).

File: theories/measure.v (hunk 14 above)
Comment (affeldt-aist) [reply theories/measure.v:845]: As I wrote above, this one might be ok as per the convention with unary predicates
(sure the convention in itself is debatable).

File: theories/sequences.v (hunk 15 above)
Comment (affeldt-aist) [reply theories/sequences.v:334]: I guess this was mimicking the previous lemmas in the file but they might be wrong.
What about `bigcup_bigsetUE` (the `E` suffix is used for equality lemmas)
or `bigcup_bigsetU_bigcup` (maybe a bit too long)?

File: theories/measure.v (hunk 10 above)
Comment (affeldt-aist) [reply theories/measure.v:643]: maybe it should be `g_monotone_monotone` as per the convention for unary predicate.

File: theories/measure.v (hunk 8 above)
Comment (affeldt-aist) [reply theories/measure.v:627]: I guess that we went for `sigma_ring` instead of `sring` because we already had `setring` and wanted to avoid confusion. We do not have the predicate for algebra of sets so the question was not raised for "algebra". In these circumstances, I also prefer `sigma_algebra` instead of `salgebra`. That's a lot of things to rename/deprecate but I do not mind.

File: theories/measure.v (hunk 9 above)
Comment (affeldt-aist) [reply theories/measure.v:631]: That's anyway more consistent and better.

File: theories/measure.v (hunk 12 above)
Comment (affeldt-aist) [reply theories/measure.v:704]: This name looks weird. What about `g_monotone_g_sigma_ring`?

File: theories/measure.v (hunk 7 above)
Comment (TheoWinterhalter) [reply theories/measure.v:422]: It does to me, but it depends how much it's used in mathcomp. Generally I don't really like this notation in textbooks either, but that's biased.

File: theories/measure.v (hunk 11 above)
Comment (TheoWinterhalter) [reply theories/measure.v:656]: Makes sense, one of them had to change. :)

File: theories/measure.v (hunk 14 above)
Comment (TheoWinterhalter) [reply theories/measure.v:846]: I mean, I read it as the generated dynkin is dynkin, sounds good to me.

File: theories/sequences.v [hunk 16]
```diff
@@ -301,37 +301,49 @@ by move=> ?; have [?|?] := pselect (F n x); [left | right].
...
+  \bigcup_k \big[setU/set0]_(i < k.+1) F i = \bigcup_k F k.
+Proof.
+apply/seteqP; split=> [x [i _]|x [i _ Fix]].
+  by rewrite -bigcup_mkord => -[j _ Fjx]; exists j.
+by exists i => //; rewrite big_ord_recr/=; right.
+Qed.
+
 End seqD.
+#[deprecated(since="mathcomp-analysis 1.2.0", note="renamed to `bigcup_bigsetU_bigcup`")]
+Notation eq_bigcup_bigsetU := bigcup_bigsetU_bigcup (only parsing).
```
Comment (proux01) [inline theories/sequences.v:344]: `eq_bigcup_bigsetU` doesn't seem to exist?

File: CHANGELOG_UNRELEASED.md [hunk 17]
```diff
@@ -135,10 +177,28 @@
...
+  + `dynkin_monotone` -> `dynkin_lambda_system`
+  + `dynkin_g_dynkin` -> `g_dynkin_dynkin`
+  + `salgebraType` -> `g_sigma_algebraType`
+  + `g_salgebra_measure_unique_trace` -> `g_sigma_algebra_measure_unique_trace`
+  + `g_salgebra_measure_unique_cover` -> `g_sigma_algebra_measure_unique_cover`
+  + `g_salgebra_measure_unique` -> `g_sigma_algebra_measure_unique`
+  + `setI_closed_gdynkin_salgebra` -> `setI_closed_g_dynkin_g_sigma_algebra`
+
+- in `sequences.v`:
+  + `eq_bigcup_bigsetU` -> `bigcup_bigsetU_bigcup`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:199]: Apparently `bigcup_bigsetU_bigcup` is just new (to be put in added above)

File: CHANGELOG_UNRELEASED.md [hunk 18]
```diff
@@ -135,10 +177,28 @@
...
+  + `eq_bigsetU_seqD` -> `nondecreasing_bigsetU_seqD`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:200]: Maybe also mention the equality reversed in the statement

File: theories/measure.v [hunk 19]
```diff
@@ -364,25 +390,69 @@ Definition fin_trivIset_closed :=
...
 Definition sigma_algebra :=
   [/\ G set0, (forall A, G A -> G (D `\` A)) &
      (forall A : (set T)^nat, (forall n, G (A n)) -> G (\bigcup_k A k))].
 
 Definition dynkin := [/\ G setT, setC_closed & trivIset_closed].
 
-Definition monotone_class :=
+(**md Until MathComp-Analysis 1.1.0, the identifier was `monotone_class`
+because this definition corresponds to "classe monotone" is several
+French references, e.g., the definition of "class monotone" on the French wikipedia. *)
```
Comment (proux01) [inline theories/measure.v:404]:
```suggestion
(**md Until MathComp-Analysis 1.1.0, the identifier was `monotone_class`
because this definition corresponds to "classe monotone" in several
French references, e.g., the definition of "classe monotone" on the French wikipedia. *)
```

File: CHANGELOG_UNRELEASED.md [hunk 20]
```diff
@@ -135,10 +177,28 @@
...
   + `num_lte_minr` -> `num_lte_min`
   + `num_lte_minl` -> `num_gte_min`
+- in `measure.v`:
+  + `bigcap_measurable` -> `bigcap_measurableType`
 
 - in `lebesgue_integral.v`:
   + `integral_measure_add` -> `ge0_integral_measure_add`
   + `integral_pushforward` -> `ge0_integral_pushforward`
+- in `measure.v`:
+  + `monotone_classP` -> `lambda_system`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:187]: isn't it
```suggestion
  + `monotone_class` -> `lambda_system`
```

File: CHANGELOG_UNRELEASED.md [hunk 21]
```diff
@@ -86,6 +109,25 @@
...
+    and made to inherit from `SemiRingOfSets`
+
+- in `measure.v`:
+  + rm hypo and variable in lemma `smallest_monotone_classE`
+    and rename to `smallest_lambda_system`
+  + rm hypo in lemma `monotone_class_g_salgebra` and renamed
+    to `g_salgebra_lambda_system`
+  + rm hypo in lemma `monotone_class_subset` and renamed to
+    `lambda_system_subset`
+  + notation `<<m _, _>>` changed to `<<l _, _>>`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:123]: Maybe also note the change for `<<m _>>` to `<<l _>>`

File: theories/measure.v [hunk 22]
```diff
@@ -656,7 +841,7 @@ split => [[GT setCG trG]|[_ GT setDG ndG]]; split => //.
   by apply: (@trivIset_bigsetUI _ predT) => //; rewrite /predT /= trueE.
 Qed.
 
-Lemma dynkin_g_dynkin G : dynkin (<<d G >>).
+Lemma g_dynkin_dynkin G : dynkin <<d G >>.
```
Comment (proux01) [inline theories/measure.v:844]: Might deserve a deprecated notation to signal the renaming?

File: theories/measure.v [hunk 23]
```diff
@@ -622,14 +810,14 @@ Section dynkin_lemmas.
 Variable T : Type.
 Implicit Types D G : set (set T).
 
-Lemma dynkin_monotone G : dynkin G <-> monotone_class setT G.
+Lemma dynkin_lambda_system G : dynkin G <-> lambda_system setT G.
```
Comment (proux01) [inline theories/measure.v:813]: Might deserve a deprecated notation to signal the renaming?

File: theories/measure.v [hunk 24]
```diff
@@ -733,10 +919,130 @@ have dGdGdelta A : <<d G >> A -> <<d G >> `<=` delta A.
...
+Lemma subset_strace G C : G `<=` C -> forall D, strace G D `<=` strace C D.
+Proof. by move=> GC D _ [A GA <-]; exists A => //; exact: GC. Qed.
+
+Lemma g_sigma_ring_strace G A B : <<sr strace G A >> B -> B `<=` A.
+Proof.
+move=> H; apply H => /=; split; first exact: powerset_sigma_ring.
+by move=> X [A0 GA0 <-]; exact: subIsetr.
+Qed.
+
+Lemma strace_sigma_ring G A : sigma_ring (strace <<sr G>> A).
```
Comment (proux01) [inline theories/measure.v:944]: changelog?

File: CHANGELOG_UNRELEASED.md [hunk 25]
```diff
@@ -86,6 +109,25 @@
 
 - in `measure.v`:
   + change the hypothesis of `measurable_fun_bool`
+  + mixin `AlgebraOfSets_isMeasurable` renamed to `hasCountableUnion`
+  + mixin `AlgebraOfSets_isMeasurable` renamed to `hasMeasurableCountableUnion`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:113]: Which one is it?

**Review by proux01 — APPROVED** [review]
Minor comments

**Comment by affeldt-aist** [comment]
> Minor comments

All very well spotted! Many thanks.
